US07319099B2
(b) 2-(4-Bromo-phenyl)-oxazole
A solution of 21 mmol of phosphorous pentoxide in 20 ml of methylsulfonic acid was treated with 7 mmol of 4-Bromo-N-(2,2-dimethoxy-ethyl)-benzamide. The reaction mixture was heated for 5 hours at 130°, cooled to room temperature and poured into ice-water. The resulting solid was filtered off and dried to yield the crude title compound as a brownish solid. MS (m/e): 224.0 (MH+, 24%)

reactant | phosphorous pentoxide | 21 mmol | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 4-Bromo-N-(2,2-dimethoxy-ethyl)-benzamide | 7 mmol | BrC1=CC=C(C(=O)NCC(OC)OC)C=C1 | C11H14BrNO3
solvent | methylsulfonic acid | 20 ml | CS(=O)(=O)O | CH4O3S
product | 2-(4-Bromo-phenyl)-oxazole | BrC1=CC=C(C=C1)C=1OC=CN1 | C9H6BrNO
